US08278311B2
tert-butyl (3R)-1-benzylpyrrolidin-3-yl(methyl)carbamate
To a solution of (3R)-(−)-1-benzyl-3-(methylamino)pyrrolidine (200 mg, 1.05 mmol) and di-tert-butyl-dicarbonate (230 mg, 1.06 mmol) in methanol (10 mL) was added sodium hydroxide (10%, 4 mL) and the mixture stirred at ambient temperature for 1 hour. The mixture was diluted with water (20 mL) and ethyl acetate (100 mL). The organic layer was separated and the aqueous layer was extracted with additional ethyl acetate. The combined organic layers were dried with magnesium sulfate, filtered, and concentrated under reduced pressure to provide the title compound: 1H NMR (CD3OD): δ 1.43 (s, 9H), 1.8 (m, 1H), 2.07 (m, 1H), 2.53 (m, 2H), 2.73 (m, 1H), 2.81 (s, 3H), 2.60 (dd, J=27 Hz, J=15 Hz, 2H), 4.71 (m, 1H), 7.32 (m, 5H). MS (DCl/NH3) m/z 291 (M+H)+.

reactant | (3R)-(−)-1-benzyl-3-(methylamino)pyrrolidine | 1.05 mmol, 200 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC | C12H18N2
reactant | di-tert-butyl-dicarbonate | 1.06 mmol, 230 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 4 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl (3R)-1-benzylpyrrolidin-3-yl(methyl)carbamate | C(C1=CC=CC=C1)N1C[C@@H](CC1)N(C(OC(C)(C)C)=O)C | C17H26N2O2
